US04058550
A solution of 57.5 g of sodium 4-(n-hexadecylamino)benzoate and 55.0 g of 3-chloro-1,2-propanediol in 350 ml of hexamethylphosphoramide is treated in the manner described in Example 3 to yield 2,3-dihydroxypropyl 4-(n-hexadecylamino)benzoate melting at 112°-113° C.

reactant | sodium 4-(n-hexadecylamino)benzoate | 57.5 g | C(CCCCCCCCCCCCCCC)NC1=CC=C(C(=O)[O-])C=C1.[Na+]
reactant | 3-chloro-1,2-propanediol | 55.0 g | ClCC(CO)O | C3H7ClO2
solvent | hexamethylphosphoramide | 350 ml | CN(P(=O)(N(C)C)N(C)C)C | C6H18N3OP
product | 2,3-dihydroxypropyl 4-(n-hexadecylamino)benzoate | C(CCCCCCCCCCCCCCC)NC1=CC=C(C(=O)OCC(CO)O)C=C1 | C26H45NO4
